US08877780B2
To a stirred mixture of 3-(5-aminomethyl-1-oxo-1,3-dihydro-isoindol-2-yl)-piperidine-2,6-dione methanesulfonate (0.50 g, 1.4 mmol) and 4-ethoxybenzoyl chloride (0.26 g, 1.4 mmol) in acetonitrile (30 mL) at 0° C. was added TEA (0.28 g, 2.8 mmol) dropwise over 10 min. The mixture was stirred at ambient temperature for 2 h and then 10% aqueous HCl solution (30 mL) was added. The solid precipitate was filtered and purified by column chromatography (C18 reverse phase column). The product fractions were combined, concentrated and dried in vacuo providing N-[2-(2,6-dioxo-piperidin-3-yl)-1-oxo-2,3-dihydro-1H-isoindol-5-ylmethyl]-4-ethoxy-benzamide as a white solid (0.26 g, 46% yield); mp 269-271° C.; HPLC, Waters Symmetry C-18, 3.9×150 mm, 5 μm, 1 ml/min, 240 nm, 30/70 CH3CN/0.1% H3PO4, 5.75 (96.56%); 1H NMR (DMSO-d6) δ 1.34 (t, 3H, CH3), 1.90-2.08 (m, 1H, CHH), 2.27-2.45 (m, 1H, CHH), 2.55-2.68 (m, 1H, CHH), 2.80-3.03 (m, 1H, CHH), 4.09 (q, 2H, CH2), 4.30 (d, 1H, CHH), 4.41 (d, 1H, CHH), 4.58 (d, 2H, CH2 and CHH), 5.10 (dd, J=4.5, 13.0 Hz, 1H, CH), 6.99 (d, J=8.3 Hz, 2H, Ar), 7.44 (d, 1H, Ar), 7.54 (s, 1H, Ar), 7.69 (d, 1H, Ar), 7.87 (d, J=8.5 Hz, 2H, Ar), 8.99 (t, 1H, NH), 10.98 (s, 1H, NH); 13C NMR (DMSO-d6) δ 14.53, 22.49, 31.18, 42.64, 47.12, 51.56, 63.28, 113.92, 122.01, 122.90, 126.19, 127.02, 129.09, 130.30, 142.35, 144.20, 160.92, 165.75, 167.93, 170.98, 172.85; LCMS: MH=422; Anal. Calcd for C23H23N3O5+0.5H2O: C, 64.18; H, 5.62; N, 9.76. Found: C, 64.03; H, 5.45; N, 9.63.

reactant | 3-(5-aminomethyl-1-oxo-1,3-dihydro-isoindol-2-yl)-piperidine-2,6-dione methanesulfonate | 1.4 mmol, 0.50 g | CS(=O)(=O)O.NCC=1C=C2CN(C(C2=CC1)=O)C1C(NC(CC1)=O)=O
reactant | 4-ethoxybenzoyl chloride | 1.4 mmol, 0.26 g | C(C)OC1=CC=C(C(=O)Cl)C=C1 | C9H9ClO2
reactant | HCl | 30 mL | Cl | ClH
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
product | N-[2-(2,6-dioxo-piperidin-3-yl)-1-oxo-2,3-dihydro-1H-isoindol-5-ylmethyl]-4-ethoxy-benzamide | 0.26 g, 46% yield | O=C1NC(CCC1N1C(C2=CC=C(C=C2C1)CNC(C1=CC=C(C=C1)OCC)=O)=O)=O | C23H23N3O5
